US09260450B2
Step iii: 1-Thieno[3,2-c]pyridin-2-yl-propan-1-one
To a solution of sodium hydrosulfide hydrate (1.31 g, 17.7 mmol) in 5 mL water was added DMF (30 mL) and K2CO3 (3.27 g, 23.7 mmol). The mixture was cooled to 0° C. in an ice bath before adding 1-bromo-2-butanone (2.68 g, 17.7 mmol). After 15 minutes, a solution of 4-bromopyridine-3-carbaldehyde (2.20 g, 11.8 mmol) in DMF (20 mL) was added. The reaction mixture was stirred at 45° C. for 2.5 days. The reaction mixture was diluted with water and extracted with EtOAc. The combined organic extracts were washed with water and brine, dried over Na2SO4, and evaporated to give the crude product (1.80 g, 80%) which was used in the next step without further purification. MS m/z 192 (M+H)+.

reactant | sodium hydrosulfide hydrate | 17.7 mmol, 1.31 g | O.[SH-].[Na+]
reactant | K2CO3 | 23.7 mmol, 3.27 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromo-2-butanone | 17.7 mmol, 2.68 g | BrCC(CC)=O | C4H7BrO
reactant | 4-bromopyridine-3-carbaldehyde | 11.8 mmol, 2.20 g | BrC1=C(C=NC=C1)C=O | C6H4BrNO
solvent | water | 5 mL | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 1-Thieno[3,2-c]pyridin-2-yl-propan-1-one | 1.80 g, 80% | S1C(=CC=2C=NC=CC21)C(CC)=O | C10H9NOS
